US20010027196A1
2-Amino-4-(naphthalen-2-yl-methoxy)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, 2-naphthalenemethanol and DBU in DME. ES-MS m/e (%): 365 (M+Na+, 100), 343 (M+H+, 40).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 2-naphthalenemethanol | C1=C(C=CC2=CC=CC=C12)CO | C11H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(naphthalen-2-yl-methoxy)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=CC2=CC=CC=C2C=C1)C#N)N1N=CC=C1 | C19H14N6O
